US04517202
(E)-2-(3-tert-Butyldimethylsilyloxy-3-cyclohexylprop-1-enyl)bicyclo[3,3,0]octan-6-one (57 mg), prepared as described in Reference Example 14 and in the form of (±)-(E)-2β-(3α-tert-butyldimethylsilyloxy-3-cyclohexylprop-1-enyl)bicyclo[3,3,0]octan-6-one, was dissolved in dry diethyl ether (0.6 ml). The solution was cooled to -70° C. under an atmosphere of argon and treated with a solution of lithium diisopropylamide in diethyl ether (0.132 ml; 1.3M) with stirring, and the mixture was stirred at -70° C. for 10 minutes. 4-Methoxycarbonylbutanal (29.6 mg) was then added to the mixture, which was stirred for a further period of 10 minutes at -70° C. The mixture was then treated with a solution of glacial acetic acid (0.05 ml) in diethyl ether (1 ml) and the mixture was allowed to warm to ambient temperature. Water and diethyl ether were added and the layers were separated. The aqueous layer was extracted with ethyl acetate. The combined diethyl ether and ethyl acetate solutions were washed with saturated aqueous sodium bicarbonate solution and then with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulphate, and concentrated under reduced pressure. The resulting residue was dissolved in dry benzene (0.6 ml). The solution was treated with methanesulphonyl chloride (0.015 ml) with stirring at the ambient temperature, and then with triethylamine (0.0255 ml), and was stirred for a further period of 2 hours. The mixture was then treated with 1,8-diazabicyclo[5,4,0]undec-7-ene (137 mg) and stirred for 16 hours at ambient temperature. The crude mixture was then subjected to medium pressure, short column chromatography on silica gel, eluting with a mixture of ethyl acetate and hexane (1:9 by volume), to give (E)-6-(3-tert-butyldimethylsilyloxy-3-cyclohexylprop-1-enyl)-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one (12 mg), in the form of (±)-6β-[(E)-3α-tert-butyldimethylsilyloxy-3-cyclohexylprop-1-enyl]-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one, otherwise known as (±)-methyl (5E,13E)-(9S,15S)-6a-oxo-6,9-methano-15-tert-butyldimethylsilyloxy-15-cyclohexyl-16,17,18,19,20-pentanorprosta-5,13-dienoate.

reactant | (E)-2-(3-tert-Butyldimethylsilyloxy-3-cyclohexylprop-1-enyl)bicyclo[3,3,0]octan-6-one | 57 mg | [Si](C)(C)(C(C)(C)C)OC(/C=C/C1C2CCC(C2CC1)=O)C1CCCCC1 | C23H40O2Si
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4-Methoxycarbonylbutanal | 29.6 mg | COC(=O)CCCC=O | C6H10O3
reactant | acetic acid | 0.05 ml | C(C)(=O)O | C2H4O2
solvent | diethyl ether | 0.6 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 0.132 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 1 ml | C(C)OCC | C4H10O
solvent | Water | O | H2O
product | (E)-6-(3-tert-butyldimethylsilyloxy-3-cyclohexylprop-1-enyl)-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one | 12 mg | [Si](C)(C)(C(C)(C)C)OC(/C=C/C1C2C\C(\C(C2CC1)=O)=C/CCCC(=O)OC)C1CCCCC1 | C29H48O4Si
